US06239160B1
Step 4: N,N-Dimethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxamide
5.8 g of carbonyidiimidazole are initially charged in 90 ml of tetrahydrofuran and, a little at a time, admixed with 9 g of 5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxylic acid. The mixture is stirred at room temperature for 15 min and then heated at 50° C. for 2 h. After cooling to room temperature, 2.3 g of dimethylamine are introduced in a very gentle gas stream over a period of 2 h. After a reaction time of 12 h, the mixture is concentrated and taken up in 200 ml of diethyl ether. The mixture is washed with ice-cold half conc. hydrochloric acid solution, washed neutral with sat. sodium bicarbonate sol., dried over magnesium sulfate and concentrated under reduced pressure. This gives a slightly yellow oil which solidifies after a number of days to a solid of mp. 52-54° C.

reactant | carbonyidiimidazole | 5.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxylic acid | 9 g | FC(C1=C(C=NC=C1)C1=NC(=NO1)C(=O)O)(F)F | C9H4F3N3O3
reactant | dimethylamine | 2.3 g | CNC | C2H7N
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxamide | CN(C(=O)C1=NOC(=N1)C=1C=NC=CC1C(F)(F)F)C | C11H9F3N4O2
